US07625889B2
Step 2: (5-Bromo-2-fluoro-phenyl)-[(S)-2-(4-fluoro-phenyl)-4-methyl-piperazin-1-yl]-methanone:
Formaldehyde (1.47 mL, 19.4 mmol of 37% aqueous solution) was added to (5-Bromo-2-fluoro-phenyl)-[(S)-2-(4-fluoro-phenyl)-piperazin-1-yl]-methanone (0.32 g, 0.65 mmol) in 10 mL of methanol. The mixture was stirred at ambient temperature for 1 h and then sodium triacetoxyborohydride (0.82 g, 3.9 mmol) was added and the resulting mixture was stirred overnight. The volatiles were removed in vacuo, and the residue was portioned between ethyl acetate and 1M sodium bicarbonate solution. The organic phase was washed with 1M sodium bicarbonate solution and brine, dried over magnesium sulfate, filtered and concentrated to leave 0.21 g of product. LC/MS: Retention time, 2.14 min; (M+H)=395/397.

reactant | Formaldehyde | 19.4 mmol, 1.47 mL | C=O | CH2O
reactant | (5-Bromo-2-fluoro-phenyl)-[(S)-2-(4-fluoro-phenyl)-piperazin-1-yl]-methanone | 0.65 mmol, 0.32 g | BrC=1C=CC(=C(C1)C(=O)N1[C@H](CNCC1)C1=CC=C(C=C1)F)F | C17H15BrF2N2O
reactant | sodium triacetoxyborohydride | 3.9 mmol, 0.82 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | (5-Bromo-2-fluoro-phenyl)-[(S)-2-(4-fluoro-phenyl)-4-methyl-piperazin-1-yl]-methanone | 0.21 g | BrC=1C=CC(=C(C1)C(=O)N1[C@H](CN(CC1)C)C1=CC=C(C=C1)F)F | C18H17BrF2N2O
